US04005219
a. 5,6-Dimethyl cis-3a,4,7,7a-tetrahydroindane-1,3-dione
A solution of 4-cyclopentene-1,3-dione (5.48g; 0.06 mole) and 2,3-dimethyl butadiene (10.4g; 0.127 mole) in dry benzene (20ml) were treated with a few crystals of 2,5-di-t-butyl hydroquinone and allowed to stand at ambient temperature for 4 days. After refluxing for 15 mins the mixture was cooled and the pale orange solid filtered. Recrystallisation from benzene, methanol afforded the title product as a white solid, m.p. 157°-158° C.

reactant | 4-cyclopentene-1,3-dione | 0.06 mole, 5.48g | C1(CC(C=C1)=O)=O | C5H4O2
reactant | 2,3-dimethyl butadiene | 0.127 mole, 10.4g | CC(=C)C(=C)C | C6H10
reactant | 2,5-di-t-butyl hydroquinone | C(C)(C)(C)C1=C(O)C=C(C(=C1)O)C(C)(C)C | C14H22O2
solvent | benzene | 20ml | C1=CC=CC=C1 | C6H6
product | 5,6-Dimethyl cis-3a,4,7,7a-tetrahydroindane-1,3-dione | CC=1C[C@H]2C(CC([C@H]2CC1C)=O)=O | C11H14O2
